US07947728B1
To 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole (37 mg, 0.10 mmol, 1 eq.) was added dimethylformamide (1 ml), sodium hydride (8 mg of 60% dispersion, 0.2 mmol, 2 eq.) and (E)-but-2-enoic acid ethyl ester (0.025 ml, 0.2 mmol, 2 eq.). The reaction was stirred at room temperature for 18 hr and heated at 50° C. for 2 hr. To the reaction was added more (E)-but-2-enoic acid ethyl ester (0.050 ml, 0.4 mmol, 4 eq.) and the reaction heated at 80° C. for 22 hr. The reaction was partitioned between ethyl acetate (10 mL) and aqueous citric acid (10 mL), the organic layer separated and washed with brine (saturated NaCl), dried over magnesium sulfate, filtered, evaporated under reduced pressure. The crude material was dissolved in dimethylsulfoxide and purified by HPLC with a 50-100% acetonitrile in water gradient to yield 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-butyric acid as white solid (3 mg, 6%). LC-MS (ES) calculated for C26H23F2NO4, 451.2; found m/z 452 [M+H]+.

reactant | 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole | 0.10 mmol, 37 mg, 1 eq. | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=CC=C2C=CNC2=C1)OC | C22H17F2NO2
reactant | sodium hydride | 0.2 mmol, 8 mg, 2 eq. | [H-].[Na+]
reactant | (E)-but-2-enoic acid ethyl ester | 0.2 mmol, 0.025 ml, 2 eq. | C(C)OC(\C=C\C)=O | C6H10O2
reactant | (E)-but-2-enoic acid ethyl ester | 0.4 mmol, 0.050 ml, 4 eq. | C(C)OC(\C=C\C)=O | C6H10O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-butyric acid | 3 mg, 6% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=CC=C2C=CN(C2=C1)C(CC(=O)O)C)OC | C26H23F2NO4
